US06333336B1
2-(4-Chlorophenyl)-2,5-dihydro-6-methyl-7-[3-(3-pyridylmethylamino)phenyl]pyrazolo [4,3-c]pyridin-3-one
To a stirred mixture of 7-(3-aminophenyl)-2-(4-chlorophenyl)-2,5-dihydro-6-methylpyrazolo[4,3-c]pyridin-3-one (0.100 g, 0.285 mmol), 3-pyridinecarboxaldehyde (32.3 ml, 0.342 mmol), and acetic acid (65.5 ml, 1.14 mmol) in anhydrous methanol (4 ml) under nitrogen was added sodium cyanoborohydride (21.5 mg, 0.342 mmol) and the mixture was stirred for 3 h. The mixture was quenched with saturated aqueous K2CO3 (0.5 ml) and the solvent was removed in vacuo. The residue was purified by flash chromatography (silica gel, 5-10% MeOH/CH2Cl2) to give 0.1162 g (93%) of the title compound as a yellow solid; mp 284-287° C. (CH2Cl2-MeOH-EtOAc); 1H NMR (360 MHz, DMSO-d6) δ2.13 (3H, s), 4.34 (2H, d, J 6.1 Hz), 6.39 (1H, t, J 6.1 Hz), 6.64-6.68 (3H, m), 7.17 (1H, t, J 7.7 Hz), 7.35 (1H, dd, J 7.9, J′4.9 Hz), 7.42 (2H, d, J9.0 Hz), 7.77 (1H, dt), 8.11 (2H, d, J 9.0 Hz), 8.44 (1H, m), 8.51 (1H, s), 8.61 (1H, s), 12.34 (1H, br s); MS (ES+) m/z 442/444[MH]+, 221/222[(M2H)/2]+. Anal. found: C, 67.08; H, 4.50; N, 15.54. C25H20ClN5O.0.3H2O requires: C, 67.13; H, 4.64; N, 15.66%.

reactant | 7-(3-aminophenyl)-2-(4-chlorophenyl)-2,5-dihydro-6-methylpyrazolo[4,3-c]pyridin-3-one | 0.285 mmol, 0.100 g | NC=1C=C(C=CC1)C=1C=2C(=CNC1C)C(N(N2)C2=CC=C(C=C2)Cl)=O | C19H15ClN4O
reactant | 3-pyridinecarboxaldehyde | 0.342 mmol, 32.3 ml | N1=CC(=CC=C1)C=O | C6H5NO
reactant | acetic acid | 1.14 mmol, 65.5 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.342 mmol, 21.5 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
product | 2-(4-Chlorophenyl)-2,5-dihydro-6-methyl-7-[3-(3-pyridylmethylamino)phenyl]pyrazolo [4,3-c]pyridin-3-one | 0.1162 g, 93% | ClC1=CC=C(C=C1)N1N=C2C(=CNC(=C2C2=CC(=CC=C2)NCC=2C=NC=CC2)C)C1=O | C25H20ClN5O
